US06291475B1
2-{[(3-Nitrophenyl)sulfonyloxy]methyl}oxirane
m-Nitrobenzensulfonylchloride (12.6 g; 57 mmol) was added to a cold (−20° C.) solution of (R)-(+)-glycidol (5.5 g; 74 mmol) and TEA (10.3 mL; 74 mmol). The reaction mixture was stirred at −20° C. for 96 h. The solution was filtered and the filtrate washed with tartaric acid (10% w/w), brine, H2O and concentrated giving the title compound in a 97% yield.

reactant | m-Nitrobenzensulfonylchloride | 57 mmol, 12.6 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | (R)-(+)-glycidol | 74 mmol, 5.5 g | C1[C@H](O1)CO | C3H6O2
product | 2-{[(3-Nitrophenyl)sulfonyloxy]methyl}oxirane | 97% yield | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OCC1OC1 | C9H9NO6S
